US04283509
N-(3'-Hydroxy-2',2'-dimethylpropyl)-3,4-dihydronaphthalene-1,2-dicarboxylic acid imide
20.0 g (0.1 mol) of 3,4-dihydronaphthalene-1,2-dicarboxylic acid anhydride and 10.3 g (0.1 mol) of 2,2-dimethyl-3-aminopropanol are dissolved in 60 ml of toluene and the solution is refluxed for 2 hours, the water formed being separated off by means of a water separator. After the reaction has ended, the reaction mixture is concentrated to dryness in vacuo at 60° C. The residue is recrystallised from ethanol. This yields 25.1 g (87.9% of theory) of N-(3'-hydroxy-2',2'-dimethylpropyl)-3,4-dihydronaphthalene-1,2-dicarboxylic acid imide.

reactant | 3,4-dihydronaphthalene-1,2-dicarboxylic acid anhydride | 0.1 mol, 20.0 g | C12=C(CCC3=CC=CC=C13)C(=O)OC2=O | C12H8O3
reactant | 2,2-dimethyl-3-aminopropanol | 0.1 mol, 10.3 g | CC(CO)(CN)C | C5H13NO
reactant | water | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3'-Hydroxy-2',2'-dimethylpropyl)-3,4-dihydronaphthalene-1,2-dicarboxylic acid imide | OCC(CN=C(O)C1=C(CCC2=CC=CC=C12)C(=O)O)(C)C | C17H21NO4
